US03935261
A solution of diisobutylaluminium hydride (25.6 g., 0.18 mole) in benzene (250 ml.) was added, with rapid stirring, to a solution of 2-(7-hydroxyheptyl)-3-oxocyclopentanecarbonitrile (10 g., 0.045 mole) in dry diethyl ether (250 ml.) at 10°-15°C. Stirring at ambient temperature was contined for 15 minutes and the mixture was added to 2N aqueous acetic acid (300 ml.) at a temperature lower than 15°C. The organic phase was separated and the aqueous layer was extracted with diethyl ether. The combined organic phases were washed with aqueous sodium bicarbonate, dried over magnesium sulphate and the solvents were removed in vacuo. The residue was distilled under reduced pressure to give 3-hydroxy-2-(7-hydroxyheptyl)cyclopentanecarbaldehyde (4.5 g., 43%), b.p. 185°-193°C./0.1 mm.Hg, nD22.5 1.4995.

reactant | diisobutylaluminium hydride | 0.18 mole, 25.6 g | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-(7-hydroxyheptyl)-3-oxocyclopentanecarbonitrile | 0.045 mole, 10 g | OCCCCCCCC1C(CCC1=O)C#N | C13H21NO2
reactant | acetic acid | 2N, 300 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 3-hydroxy-2-(7-hydroxyheptyl)cyclopentanecarbaldehyde | 4.5 g, 43% | OC1C(C(CC1)C=O)CCCCCCCO | C13H24O3
